US07915411B2
2-Chloro-5-(4-chloro-3-nitro-phenoxymethyl)-thiazole (from Example 25A) was reacted with 4-aminothiophenol in anhydrous ethanol and at reflux under a nitrogen atmosphere. The reaction was cooled to room temperature and the ethanol removed by rotary evaporation. The residue was taken up in water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Trituration of the solid with 4% ethyl acetate/methylene chloride afforded 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)aniline. A mixture of 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)aniline and di-tert-butyl dicarbonate in 1,4-dioxane was heated at reflux under a nitrogen atmosphere, and then additional Boc anhydride was added and the reaction allowed to reflux. The reaction was cooled to room temperature and the solvent removed by rotary evaporation in vacuo. The resulting solid was triturated with 2.5% ethyl acetate/methylene chloride to obtain tert-butyl 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)phenylcarbamate. A suspension of 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)phenylcarbamate, iron powder, and ammonium chloride in water and ethanol was heated. The reaction was cooled to room temperature. The mixture was diluted with ethyl acetate and washed with water and brine. The organic phase was dried, filtered, and concentrated under vacuum to provide the title compound.

reactant | 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)aniline | ClC=1SC(=CN1)COC1=CC(=C(C=C1)SC1=CC=C(N)C=C1)[N+](=O)[O-] | C16H12ClN3O3S2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-((2-chlorothiazol-5-yl)methoxy)-2-nitrophenylthio)phenylcarbamate | ClC=1SC(=CN1)COC1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C21H20ClN3O5S2
